US04115122
20.4 g of 2-methyl-5-propargyloxybenzothiazole and 12.5 g of propargyl bromide were heated on a hot water bath at 80° to 100° C for 3 hours. The precipitated crystals were washed with acetone to give 17.5 g of 2-methyl-3-propargyl-5-propargyloxybenzothiazolium bromide, m.p. 244° C.

reactant | 2-methyl-5-propargyloxybenzothiazole | 20.4 g | CC=1SC2=C(N1)C=C(C=C2)OCC#C | C11H9NOS
reactant | propargyl bromide | 12.5 g | C(C#C)Br | C3H3Br
product | 2-methyl-3-propargyl-5-propargyloxybenzothiazolium bromide | 17.5 g | [Br-].CC=1SC2=C([N+]1CC#C)C=C(C=C2)OCC#C | InChI=1S/C14H12NOS.BrH/c1-4-8-15-11(3)17-14-7-6-12(10-13(14)15)16-9-5-2;/h1-2,6-7,10H,8-9H2,3H3;1H/q+1;/p-1
